US07741352B2
N-(2,4-Dimethoxyphenyl)-2,2,2-trifluoro-acetamide
A slurry of 2,4-dimethoxyaniline hydrochloride (1.90 g; 10 mmol) in THF (20 mL) was added pyridine (1.6 mL; 20 mmol) and cooled on an ice/water bath (0-5° C.). The mixture was then added trifluoroacetic anhydride (1.56 mL; 11 mmol) and left to slowly warm to room temperature overnight. The reaction mixture was evaporated to approx. 5 mL, added diethylether (40 mL) and H2O (30 mL). The organic layer was isolated, dried (MgSO4), filtered and evaporated to dryness to yield the desired compound in quantitative yield.

reactant | 2,4-dimethoxyaniline hydrochloride | 10 mmol, 1.90 g | Cl.COC1=C(N)C=CC(=C1)OC
reactant | pyridine | 20 mmol, 1.6 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 11 mmol, 1.56 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(2,4-Dimethoxyphenyl)-2,2,2-trifluoro-acetamide | quantitative yield | COC1=C(C=CC(=C1)OC)NC(C(F)(F)F)=O | C10H10F3NO3
